US07696223B2
a) 3-Chloro-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester
A mixture of 4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (223 mg, 0.789 mmol), NCS (117 mg, 0.869 mmol) and BzOOBz (10 mg, 0.039 mmol) in carbontetrachloride (4 mL) was refluxed for 30 min. Then the reaction was cooled and concentrated, the resulting mixture was purified by column to give the desired product (100 mg). The title compound, 1H NMR (200 MHz, CDCl3): δ (ppm)=11.8 (s, 1H), 8.44 (s, 1H), 7.6-7.4 (m, 5H), 7.35 (s, 1H), 4.53 (q, 2H, J=7.4 Hz), 1.49 (t, 3H, J=7.4 Hz).

reactant | 4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 0.789 mmol, 223 mg | C(C)OC(=O)C=1C(=C2C(=CN1)N(C=C2)C2=CC=CC=C2)O | C16H14N2O3
reactant | NCS | 0.869 mmol, 117 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
reactant | BzOOBz | 0.039 mmol, 10 mg | C(=O)(C1=CC=CC=C1)OOC(=O)C1=CC=CC=C1 | C14H10O4
solvent | carbontetrachloride | 4 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Chloro-4-hydroxy-1-phenyl-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 100 mg | C(C)OC(=O)C=1C(=C2C(=CN1)N(C=C2Cl)C2=CC=CC=C2)O | C16H13ClN2O3
